US04742148
I. PREPARATION OF DICYANATE-IMIDAZOLE
To a solution of 136 parts of imidazole (2.0 moles) in 408 parts of ethyl acetate, 278 parts of bisphenol A dicyanate (1.0 mole; manufactured by Interez, Louisville, Ky.) in 834 parts of ethyl acetate were added slowly. The reaction temperature was maintained at 60°-65° C. during addition. After the addition, the mixture was stirred for another half hour at 60°-65° C. The batch was cooled down to 30°-35° C. and the precipitates were filtered by suction filtration. The white powder was dried under vacuum at 50°-60° C. M.P.=175°-177° C.; actual yield=95-97%.

reactant | imidazole | 2.0 moles | N1C=NC=C1 | C3H4N2
reactant | bisphenol A dicyanate | 1.0 mole | [O-]C#N.[O-]C#N.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | DICYANATE-IMIDAZOLE | yield=95-97% | N1C=NC=C1.[O-]C#N.[O-]C#N | InChI=1S/C3H4N2.2CHNO/c1-2-5-3-4-1;2*2-1-3/h1-3H,(H,4,5);2*3H/p-2
